US08202865B2
Step 2: Tert-butyl 3-cyanobenzyl(2-methoxyethyl)carbamate
To a stirred solution of 3-{[(2-methoxyethyl)amino]methyl}benzonitrile (5.8 g, 0.0304 mol) in dry THF (100 mL), was added di-tert-butyl dicarbonate (6.62 mL, 0.0335 mol) and refluxed at 70° C. for a period of 6 hours. The reaction mixture was then concentrated under reduced pressure to afford the title compound (7.4 g, 84%) as a pale yellow liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.71-7.72 (t, 1H), 7.63 (s, 1H), 7.54-7.55 (d, 2H), 4.43 (s, 2H), 3.29-3.38 (m, 4H), 3.19 (s, 3H), 1.27-1.37 (d, 9H).

reactant | 3-{[(2-methoxyethyl)amino]methyl}benzonitrile | 0.0304 mol, 5.8 g | COCCNCC=1C=C(C#N)C=CC1 | C11H14N2O
reactant | di-tert-butyl dicarbonate | 0.0335 mol, 6.62 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Tert-butyl 3-cyanobenzyl(2-methoxyethyl)carbamate | 7.4 g, 84% | C(#N)C=1C=C(CN(C(OC(C)(C)C)=O)CCOC)C=CC1 | C16H22N2O3
